US08957203B2
Step 3: Preparation of (3R)-ethyl 2-(diphenylmethyleneamino)-3-ethyl-5-methylnon-8-enoate
To a solution of (S)-5-methylnon-8-en-3-yl 4-methylbenzenesulfonate (15 g, 48.3 mmole) and N-(diphenylmethylene)glycinate ethyl ester (15.5 g, 58.0 mmole) in toluene (150 mL) was added LiHMDS (72.5 mL, 72.5 mmole, 1 M solution in THF) at 0° C. The reaction mass was allowed to come to room temperature heated at 110° C. for 2 h. The reaction mass was cooled to room temperature, quenched with water and extracted with ethyl acetate (100 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under reduced pressure to get crude compound (7.0 g, 35.7%). The crude compound was taken to the next step without further purification. MS: MS m/z 406.4 (M++1).

reactant | (S)-5-methylnon-8-en-3-yl 4-methylbenzenesulfonate | 48.3 mmole, 15 g | CC1=CC=C(C=C1)S(=O)(=O)O[C@@H](CC)CC(CCC=C)C | C17H26O3S
reactant | N-(diphenylmethylene)glycinate ethyl ester | 58.0 mmole, 15.5 g | C(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17NO2
reactant | LiHMDS | 72.5 mmole, 1 M, 72.5 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | (3R)-ethyl 2-(diphenylmethyleneamino)-3-ethyl-5-methylnon-8-enoate | 7.0 g, 35.7% | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC(C(=O)OCC)[C@@H](CC(CCC=C)C)CC | C27H35NO2
